* File: Inverter.pex.netlist.pex
* Created: Sun Nov 14 01:09:31 2021
* Program "Calibre xRC"
* Version "v2018.1_36.27"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVERTER_OUT 1 2 3 VSS
c3 3 VSS 0.0450598f
r4 2 3 0.0241379
r5 1 3 0.0241379
.ends

