* File: NAND3.pex.netlist.pex
* Created: Mon Nov 15 22:59:37 2021
* Program "Calibre xRC"
* Version "v2018.1_36.27"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND3_VSS 1 2 VSS
c4 2 VSS 1.38072e-19
c5 1 VSS 0.742231f
r6 1 2 8.6
.ends

.subckt PM_NAND3_VDD 1 2 3 VSS
c6 3 VSS 0.192272f
c7 2 VSS 0.201079f
r8 2 3 0.6
r9 1 3 0.8
.ends

.subckt PM_NAND3_VOUT 1 2 3 4 VSS
c6 4 VSS 0.436328f
c7 1 VSS 0.741989f
r8 3 4 0.2
r9 2 4 0.8
r10 1 4 9
.ends

