************************************************************************
* auCdl Netlist:
* 
* Library Name:  ELEC402_NAND3
* Top Cell Name: NAND3
* View Name:     schematic
* Netlisted on:  Nov 16 00:43:58 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ELEC402_NAND3
* Cell Name:    NAND3
* View Name:    schematic
************************************************************************

.SUBCKT NAND3 A B C VDD VOUT VSS
*.PININFO A:I B:I C:I VOUT:O VDD:B VSS:B
MM1 net5 B net4 net3 NFET m=4
MM0 VOUT A net5 net3 NFET m=4
MM2 net4 C VSS net3 NFET m=4
MM5 VOUT C VDD net6 PFET m=2
MM4 VOUT B VDD net6 PFET m=2
MM3 VOUT A VDD net6 PFET m=2
.ENDS

